US09212154B2
By an operation similar to that in Synthetic Example 13 and using 2-methylthiazolidine-2,4-dicarboxylic acid 2-ethyl ester synthesized from DL-cysteine by a method similar to that in Reference Example 2, N-acetyl-2-methylthiazolidine-2,4-dicarboxylic acid (trans form) was obtained as a white solid (yield 70%).

reactant | 2-methylthiazolidine-2,4-dicarboxylic acid 2-ethyl ester | CCOC(=O)C1(SCC(N1)C(=O)O)C | C8H13NO4S
reactant | DL-cysteine | NC(CS)C(=O)O | C3H7NO2S
product | N-acetyl-2-methylthiazolidine-2,4-dicarboxylic acid | C(C)(=O)N1C(SCC1C(=O)O)(C(=O)O)C | C8H11NO5S
